US07772249B2
2-[(5-Bromo-4-pyrimidinyl)amino]-1-butanol
2-(4-Pyrimidinylamino)-1-butanol (4.2 g) was dissolved in acetic acid (42 mL), and bromine (1.5 mL) was added dropwise at a normal temperature. After stirred for 1 day at the same temperature, the solution was neutralized with a 5N aqueous sodium hydroxide solution and extracted with ethyl acetate, and the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1.1) to give the title compound (4.4 g) as white crystals.

reactant | 2-(4-Pyrimidinylamino)-1-butanol | 4.2 g | N1=CN=C(C=C1)NC(CO)CC | C8H13N3O
reactant | bromine | 1.5 mL | BrBr | Br2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | acetic acid | 42 mL | C(C)(=O)O | C2H4O2
product | 2-[(5-Bromo-4-pyrimidinyl)amino]-1-butanol | 4.4 g | BrC=1C(=NC=NC1)NC(CO)CC | C8H12BrN3O
